US06906095B2
Preparation of Cyclohexane-1,3-dione mono-(4-chlorophenyl)hydrazone
A solution of 1,3-cyclohexanedione (5.05 g, 45 mmol) in water is treated over a 10 min period with an aqueous suspension of p-chlorophenylhydrazine (8.06 g, 45 mmol), stirred at room temperature for 16 h and filtered. The filtercake is washed with water and dried in vacuo to give the title product which is used as in Example 132.

reactant | 1,3-cyclohexanedione | 45 mmol, 5.05 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | p-chlorophenylhydrazine | 45 mmol, 8.06 g | ClC1=CC=C(C=C1)NN | C6H7ClN2
solvent | water | O | H2O
product | Cyclohexane-1,3-dione mono-(4-chlorophenyl)hydrazone | ClC1=CC=C(C=C1)NN=C1CC(CCC1)=O | C12H13ClN2O
